US07582630B2
4-[2-(4-methoxyphenyl)pyrazolo[1,5-b]pyridazin-3-yl]-N-phenylpyrimidin-2-amine
To a solution of 100 mg (0.31 mmol) of (2E)-3-(dimethylamino)-1-[2-(4-methoxyphenyl)pyrazolo[1,5-b]pyridazin-3-yl]prop-2-en-1-one in 5 ml of N,N-dimethylformamide were added 103 mg (0.39 mmol) of N-phenylguanidinium nitrate and 153 mg (1.11 mmol) of potassium carbonate. The mixture was stirred at 120° C. for 28 hours. Removal of solvent followed by column chromatography with dichloromethane:methanol=100:1 gave the crude product. The crude product was washed with dichloromethane to afford the desired compound in 30% yield.

reactant | (2E)-3-(dimethylamino)-1-[2-(4-methoxyphenyl)pyrazolo[1,5-b]pyridazin-3-yl]prop-2-en-1-one | 0.31 mmol, 100 mg | CN(/C=C/C(=O)C=1C(=NN2N=CC=CC21)C2=CC=C(C=C2)OC)C | C18H18N4O2
reactant | N-phenylguanidinium nitrate | 0.39 mmol, 103 mg | [N+](=O)([O-])[O-].C1(=CC=CC=C1)NC(=[NH2+])N
reactant | potassium carbonate | 1.11 mmol, 153 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[2-(4-methoxyphenyl)pyrazolo[1,5-b]pyridazin-3-yl]-N-phenylpyrimidin-2-amine | 30% yield | COC1=CC=C(C=C1)C1=NN2N=CC=CC2=C1C1=NC(=NC=C1)NC1=CC=CC=C1 | C23H18N6O
